US07705155B2
Synthesis of 1-(2-methoxy-pyridin-4-yl)-propan-1-one
A stirred suspension of 25.44 g of 2-methoxy-isonicotinonitrile as obtained in Example 1 (189.7 mmol) in 380 mL TBME was cooled to 0° C. and 114 mL ethyl magnesium chloride in THF (2.0 M, 228.0 mmol, 1.20 eq) were added within 45 min. Stirring was continued at 0° C. After 3 h 40 min, additional 5 mL ethyl magnesium chloride in THF (2.0 M, 10.0 mmol, 0.05 eq) were added at 0° C. The reaction was monitored by HPLC. After 4.5 h (<3% area 2-methoxy-isonicotinonitrile), the reaction was quenched at 0° C. by addition of 300 mL water. The resulting suspension was stirred for 16 h at room temperature and was then diluted with 200 mL toluene. The aqueous phase was extracted with 400 mL toluene and the combined organic phases were washed with 500 mL saturated aqueous NH4Cl and 500 mL brine, dried over 50 g Na2SO4 (30 min) and filtered. The filter cake was washed with 100 mL toluene. After evaporation of solvent in a rotary evaporator (40° C./10 mbar), the title compound (28.64 g, 91% by weight) was obtained as an orange solid.

reactant | 2-methoxy-isonicotinonitrile | 25.44 g | COC=1C=C(C#N)C=CN1 | C7H6N2O
reactant | ethyl magnesium chloride | 114 mL | C(C)[Mg]Cl
reactant | THF | 228.0 mmol, 2.0 M, 1.20 eq | C1CCOC1 | C4H8O
reactant | ethyl magnesium chloride | 5 mL | C(C)[Mg]Cl
solvent | TBME | 380 mL | CC(C)(C)OC | C5H12O
catalyst | THF | 10.0 mmol, 2.0 M, 0.05 eq | C1CCOC1 | C4H8O
product | 1-(2-methoxy-pyridin-4-yl)-propan-1-one | 28.64 g | COC1=NC=CC(=C1)C(CC)=O | C9H11NO2
